US05534518
A mixture of 4.4 grams (0.026 mole) of 4-fluoro-2-nitro-6-methylaniline, 13.2 grams (0.052 mole) of iodine, and 5.5 grams (0.029 mole) of copper(I) iodide in 125 mL of acetonitrile was stirred, and a solution of 4.6 mL (0.039 mole) of tert-butyl nitrite in 25 mL of acetonitrile was added dropwise during a 10 minute period. Upon completion of addition, the reaction mixture was stirred at ambient temperature for about 16 hours. After this time the reaction mixture was poured into 300 mL of water. Excess iodine was destroyed using sodium meta-bisulfite. The mixture was then extracted with two 250 mL portions of diethyl ether. The combined extracts were dried with magnesium sulfate and filtered. The filtrate was concentrated under reduced pressure to a residue. The residue was subjected to column chromatography on silica gel. Elution was accomplished using 1:3 methylene chloride:petroleum ether. The product-containing fractions were combined and concentrated under reduced pressure, yielding 3.4 grams of 4-fluoro-2-nitro-6 -methylphenyl iodide. The NMR spectrum was consistent with the proposed structure. The reaction was repeated to obtain more product.

reactant | 4-fluoro-2-nitro-6-methylaniline | 0.026 mole, 4.4 grams | FC1=CC(=C(N)C(=C1)C)[N+](=O)[O-] | C7H7FN2O2
reactant | iodine | 0.052 mole, 13.2 grams | II | I2
reactant | tert-butyl nitrite | 0.039 mole, 4.6 mL | N(=O)OC(C)(C)C | C4H9NO2
reactant | water | 300 mL | O | H2O
solvent | acetonitrile | 125 mL | C(C)#N | C2H3N
solvent | acetonitrile | 25 mL | C(C)#N | C2H3N
catalyst | copper(I) iodide | 0.029 mole, 5.5 grams | [Cu]I
product | 4-fluoro-2-nitro-6 -methylphenyl iodide | 3.4 grams | FC1=CC(=C(C(=C1)C)I)[N+](=O)[O-] | C7H5FINO2
